US07186715B2
Step 1: 1-Benzhydryl-3-(2-bromo-phenoxy)-azetidine
Bromophenol (3.8 mL, 32.6 mmol), benzhydrylazetidinol (7.8 g, 32.6 mmol) and triphenylphosphine (12.8 g, 28.9 mmol) were dissolved in THF (200 mL) under nitrogen and cooled to 0° C. Diisopropyl azodicarboxylate (9.7 mL, 48.9 mmol) was added dropwise over 30 minutes, and the mixture was stirred for about 96 hours at r.t. Diethyl ether (400 mL) was added, and the solution was washed with 5 N NaOH (2×50 mL) and brine (50 mL), and then dried over magnesium sulfate and concentrated to a colorless oil. Purification by silica gel chromatography (4:1 hexanes/ethyl acetate) gave the title compound as a colorless oil (7.0 g, 55%).

reactant | Bromophenol | 32.6 mmol, 3.8 mL | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | benzhydrylazetidinol | 32.6 mmol, 7.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1N(CC1)O | C16H17NO
reactant | triphenylphosphine | 28.9 mmol, 12.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 48.9 mmol, 9.7 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | Diethyl ether | 400 mL | C(C)OCC | C4H10O
product | 1-Benzhydryl-3-(2-bromo-phenoxy)-azetidine | 7.0 g, 55% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OC1=C(C=CC=C1)Br | C22H20BrNO
